US08039463B2
LiOH.H2O (25 mg, 0.59 mmol) was added to a solution of N-biphenyl-4-yl-2-fluoro-malonamic acid methyl ester (114 mg, 0.39 mmol) in a mixture of methanol (0.5 mL), THF (1 mL) and H2O (0.3 mL). The resulting mixture was stirred for 2 hours at ambient temperature then concentrated. The resulting residue was diluted with water, acidified with conc. HCl. The resulting precipitate was isolated by filtration and dried to afford 35 mg (32%) of N-biphenyl-4-yl-2-fluoro-malonamic acid

reactant | LiOH.H2O | 0.59 mmol, 25 mg | O[Li].O
reactant | N-biphenyl-4-yl-2-fluoro-malonamic acid methyl ester | 0.39 mmol, 114 mg | COC(C(C(=O)NC1=CC=C(C=C1)C1=CC=CC=C1)F)=O | C16H14FNO3
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | H2O | 0.3 mL | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
product | N-biphenyl-4-yl-2-fluoro-malonamic acid | 35 mg, 32% | C1(=CC=C(C=C1)NC(C(C(=O)O)F)=O)C1=CC=CC=C1 | C15H12FNO3
